US06872731B2
Bis(pinacolato)diboron (0.67 g, 2.66 mmol), potassium acetate (0.52 g, 5.31 mmol) and trifluoromethanesulfonic acid 3-(2-cyanothien-3-yl)phenyl ester (0.59 g, 1.77 mmol) were combined and purged with nitrogen. Anhydrous 1,4-dioxane (10 ml) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (43 mg, 0.05 mmol) were added and the mixture heated at 80° C. for 18 h. The cooled reaction was partitioned between ethyl acetate (150 ml) and water (100 ml). The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated to dryness to give 3-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile as a black oil (0.55 g, 100%). This oil was dissolved in sufficient N,N-dimethylacetamide to give a 0.5M stock solution.

reactant | Bis(pinacolato)diboron | 2.66 mmol, 0.67 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.31 mmol, 0.52 g | C(C)(=O)[O-].[K+]
reactant | trifluoromethanesulfonic acid 3-(2-cyanothien-3-yl)phenyl ester | 1.77 mmol, 0.59 g | C(#N)C=1SC=CC1C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C12H6F3NO3S2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.05 mmol, 43 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile | 0.55 g, 100% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1=C(SC=C1)C#N)C | C17H18BNO2S
